.SUBCKT FDMS8320L 2 1 3
******************************************************************
**      Fairchild Discrete Modeling Group                       **
******************************************************************
**      Website         www.fairchildsemi.com\models            **
******************************************************************
**      (C) Copyright 2011 Fairchild Semiconductor Corporation  **
**                      All rights reserved                     **
**                                                              **
**                      FDMS8320L Spice model                   **
**                    Revision Rev-A, 10 Oct 2011               **
******************************************************************
*Nom Temp 25 deg C
Dbody 7 5 DbodyMOD 
Dbreak 5 11 DbreakMOD 
Lgate 1 9 0.765e-9
Ldrain 2 5 0.004e-9
Lsource 3 7 0.058e-9
RLgate 1 9 7.65
RLdrain 2 5 0.04
RLsource 3 7 0.58
Rgate 9 6 1.33
D_D1 100 5 D_SG_cap
D_D2 100 101 D_SG_cap
R_R1 101 7 3.48
C_C1 6 101 852e-12
.MODEL D_SG_cap D (IS=1e-9 n=1 RS=5e-3 CJO=7.72e-9 M=0.4365 t_abs=25) 
It 7 17 1
Ebreak 11 7 17 7 47.29
Rbreak 17 7 RbreakMOD 1 
.MODEL RbreakMOD RES (TC1=0.8e-3 TC2=-3.5e-6)
.MODEL DbodyMOD D (IS=17.5e-12 n=1 RS=0.624e-3 TRS1=4.25e-3 TRS2=1e-6 
+ CJO=2e-9 M=0.278 TT=3e-9 XTI=2.7)
.MODEL DbreakMOD D (RS=30e-3 TRS1=1e-3 TRS2=1e-6 )
Rsource 7a 7 0.155e-3
Rdrain 5 16 RdrainMOD 0.53e-3
.MODEL RdrainMOD RES (TC1=2e-3 TC2=4e-6)
M_BSIM3 16 6 7a 7a Bsim3 W=16.5788363636364 L=0.624e-6 NRS=0 NRD=0
.MODEL Bsim3 NMOS (LEVEL=7 VERSION=3.1 MOBMOD=3 CAPMOD=2 paramchk=1 NQSMOD=0
+ TOX=500e-10
+ XJ=0.22e-6
+ NCH=1.4e17
+ U0=670 VSAT=500000 DROUT=1.2
+ DELTA=0.13 PSCBE2=0 RSH=0.155e-3
+ VTH0=1.632
+ VOFF=-0.1 NFACTOR=0.9
+ LINT=0.11e-6 DLC=0.11e-6 
+ CGSO=206e-12 CGSL=0 CGDO=2.85e-12 CGDL=146e-12 
+ CJ=0 CF=0 CKAPPA=1
* Temperature parameters 
+ KT1=-1.15 KT2=0 UA1=19e-9
+ NJ=10)
.ENDS
